US08461164B2
6-{2-[4-(4-Trifluoromethylpyridin-2-yloxy)-phenyl]-ethoxy}-pyrimidine-4,5-diamine (75 mg, 0.19 mmol) was combined with 50% aqueous glyoxal solution (1 mL) in EtOH (5 mL) and stirred overnight at 25° C. The solution was evaporated and the residue extracted with CH2Cl2. The CH2Cl2 layer was washed with H2O and concentrated in vacuo. The residue was recrystallized from hot MeCN to give 4-{2-[4-(4-trifluoromethyl-pyridin-2-yloxy)-phenyl]-ethoxy}-pteridine (16 mg, 20%): mp 172-173° C.; EIMS m/z 413; 1H NMR (300 MHz, CDCl3) δ 9.24 (s, 1H), 9.07 (s, 1H), 9.02 (s, 1H), 8.30 (s, 1H), 7.43 (d, J=9.5 Hz, 2H), 7.28 (d, J=9.0 Hz, 2H), 4.63 (t, 6.8 Hz, 2H), 3.17 (t, J=7.0 Hz, 2H).

reactant | 6-{2-[4-(4-Trifluoromethylpyridin-2-yloxy)-phenyl]-ethoxy}-pyrimidine-4,5-diamine | 0.19 mmol, 75 mg | FC(C1=CC(=NC=C1)OC1=CC=C(C=C1)CCOC1=C(C(=NC=N1)N)N)(F)F | C18H16F3N5O2
reactant | glyoxal | 1 mL | C(=O)C=O | C2H2O2
solvent | EtOH | 5 mL | CCO | C2H6O
product | 4-{2-[4-(4-trifluoromethyl-pyridin-2-yloxy)-phenyl]-ethoxy}-pteridine | 16 mg, 20% | FC(C1=CC(=NC=C1)OC1=CC=C(C=C1)CCOC1=NC=NC2=NC=CN=C12)(F)F | C20H14F3N5O2
